US09260375B2
2-Benzyl-3-phenethylmaleic anhydride
To the crude 3-benzyl-2-hydroxy-2-phenethylsuccinic acid obtained was added acetic anhydride (2.5 mL), and the mixture was stirred at 115° C. for 3 h. The acetic anhydride was evaporated under reduced pressure, and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 10:1) to give 180 mg of the title compound as a solid (2 step yield: 81%).

reactant | 3-benzyl-2-hydroxy-2-phenethylsuccinic acid | C(C1=CC=CC=C1)C(C(C(=O)O)(CCC1=CC=CC=C1)O)C(=O)O | C19H20O5
reactant | acetic anhydride | 2.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-Benzyl-3-phenethylmaleic anhydride | 180 mg, yield: 81% | C(C1=CC=CC=C1)/C=1/C(=O)OC(\C1\CCC1=CC=CC=C1)=O | C19H16O3
